US06960575B2
(2RS,3RS)-3-Benzoylamino-2-hydroxy-4-phenyl-1,1,1-trifluorobutane (Reference compound No. 31-1)
Sodium borohydride (0.37 g) is added to a solution of (3RS)-3-benzoylamino-2-oxo-4-phenyl-1,1,1-trifluorobutane (3.12 g, Reference compound No. 30-1) in ethanol (25 ml), and the mixture is stirred at 35° C. for four hours. The reaction mixture is cooled with ice, 6 N hydrochloric acid is added to the mixture, and the whole is extracted with ethyl acetate. The extract is washed with water, a saturated aqueous sodium hydrogencarbonate solution and saturated brine successively and dried over anhydrous magnesium sulfate. The extract is concentrated under reduced pressure to give the titled reference compound (3.00 g).

reactant | Sodium borohydride | 0.37 g | [BH4-].[Na+]
reactant | (3RS)-3-benzoylamino-2-oxo-4-phenyl-1,1,1-trifluorobutane | C(C1=CC=CC=C1)(=O)NC(C(C(F)(F)F)=O)CC1=CC=CC=C1 | C17H14F3NO2
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | (2RS,3RS)-3-Benzoylamino-2-hydroxy-4-phenyl-1,1,1-trifluorobutane | 3.00 g | C(C1=CC=CC=C1)(=O)NC(C(C(F)(F)F)O)CC1=CC=CC=C1 | C17H16F3NO2
